US06521397B1
The mixture of 5-nitro-2-benzoxazoleacetonitrile (8 g 39.4 mmole) and Palladium on carbon (1.2 g) in THF (100 ml) and acetic acid (2 ml) in a Parr bottle was hydrogenated at 50 psi for 5 h. It was filtered over a patch of celite (1.5 cm) covered with activated carbon (0.5 cm) and washed with isopropyl ether. The filtrate was evaporated and the residue was purified by flash chromatography and gave 5-amino-2-benzoxazoleacetonitrile (2.02 g, 30%).

reactant | 5-nitro-2-benzoxazoleacetonitrile | 39.4 mmole, 8 g | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)CC#N)C1 | C9H5N3O3
catalyst | Palladium on carbon | 1.2 g | [Pd] | Pd
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 5-amino-2-benzoxazoleacetonitrile | 2.02 g, 30% | NC=1C=CC2=C(N=C(O2)CC#N)C1 | C9H7N3O
